US08791119B2
To a mixture of 3.00 g (7.81 mmol) of tert-butyl 7-bromo-8-cyano-6-cyclopropyl-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate, 1.54 g (10.2 mmol) of 4-methoxyphenylboronic acid (CAS 5720-07-0) and 7.63 g (23.4 mmol) of caesium carbonate in a mixture of 80 ml of tetrahydrofuran and 4 ml of water under argon is added 0.64 g (0.78 mmol) of 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium (II) (CAS 72287-26-4), and the mixture is heated at 100° C. for 20 hours. After cooling, the mixture is diluted with ethyl acetate and filtered through Celite, the organic phase is washed with water, dried over sodium sulfate and filtered, and the solution is concentrated under reduced pressure. The residue is chromatographed on a column of 40 g of silica gel, eluting with a mixture of 20 to 50% ethyl acetate in dichloromethane, to give 1.51 g of tert-butyl 8-carbamoyl-6-cyclopropyl-7-(4-methoxyphenyl)-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate in the form of a white solid after crystallizing from a minimum amount of ethyl acetate, rinsing with diethyl ether and drying.

reactant | tert-butyl 7-bromo-8-cyano-6-cyclopropyl-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate | 7.81 mmol, 3.00 g | BrC=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1C1CC1)C#N | C16H20BrN3O2
reactant | 4-methoxyphenylboronic acid | 10.2 mmol, 1.54 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | caesium carbonate | 23.4 mmol, 7.63 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloropalladium | 0.78 mmol, 0.64 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl 8-carbamoyl-6-cyclopropyl-7-(4-methoxyphenyl)-3,4-dihydro-1H-pyrrolo[1,2-a]pyrazine-2-carboxylate | 1.51 g | C(N)(=O)C=1C(=C(N2C1CN(CC2)C(=O)OC(C)(C)C)C2CC2)C2=CC=C(C=C2)OC | C23H29N3O4
